US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(2-chloroethylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate.
To a solution of 100 mg mitomycin A (0.286 mmol) in 10 ml. of anhydrous methanol, a solution of 82 mg sodium acetate (1 mmol) in 2.5 ml. of methanol and a solution of 116 mg 2-chloroethylamine hydrochloride (1 mmol) in 2.5 ml. of methanol were added alternatively with constant stirring, over a period of ten minutes. The stirred reaction mixture was periodically checked by TLC and the reaction appeared to be complete in 24 hours. The insoluble sodium chloride was removed by filtration and the solvent was removed by evaporation under reduced pressure. The residue was purified by column chromatography using ethyl acetate and acetone (4:1 by volume) as the eluant. Recrystallization from a mixture of chloroform and hexane gave 34 mg. (30% yield) of the desired product as purple-colored crystals having a melting point of 59° C. (decomposing) and providing the following analysis:

reactant | mitomycin A | 0.286 mmol, 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | sodium acetate | 1 mmol, 82 mg | C(C)(=O)[O-].[Na+]
reactant | 2-chloroethylamine hydrochloride | 1 mmol, 116 mg | Cl.ClCCN
solvent | methanol | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(2-chloroethylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 30% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCCCl)C)=O)CC1C2N1)OC | InChI=1S/C16H20ClN3O4.CH3NO2/c1-7-11(18-4-3-17)14(23)10-8(6-21)16(24-2)15-9(19-15)5-20(16)12(10)13(7)22;2-1(3)4/h8-9,15,18-19,21H,3-6H2,1-2H3;2H2,(H,3,4)
